US08232278B2
Synthesis of 4-[(N-3-chloro-phenylcarbamoyl)-piperazin-1-yl]-6-(3-methoxy-4-hydroxyphenyl)-pyrido[3,2-d]pyrimidine
To a solution of 4-[(N-3-chloro-phenylcarbamoyl)-piperazin-1-yl]-6-chloro-pyrido[3,2-d]pyrimidine (0.51 mmole) in 1,4-dioxane (15 ml) and water (5 ml) was added 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (0.51 mmole), potassium carbonate (1.53 mmole) and tetrakis(triphenylphosphine)palladium(0) (0.02 mmole). The reaction mixture was refluxed for two hours, cooled down to room temperature and the solvents were evaporated in vacuo. The residue was purified by silica gel column chromatography (the mobile phase being an acetone/dichloromethane mixture in a ratio of 20:80), affording the title compound as a pure white powder (135 mg, yield 54%) which was characterized by its mass spectrum as follows: MS (m/z): 492 ([M+H]+, 100).

reactant | 4-[(N-3-chloro-phenylcarbamoyl)-piperazin-1-yl]-6-chloro-pyrido[3,2-d]pyrimidine | 0.51 mmole | ClC=1C=C(C=CC1)NC(=O)C1N(CCNC1)C=1C2=C(N=CN1)C=CC(=N2)Cl | C18H16Cl2N6O
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 0.51 mmole | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
reactant | potassium carbonate | 1.53 mmole | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmole | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(N-3-chloro-phenylcarbamoyl)-piperazin-1-yl]-6-(3-methoxy-4-hydroxyphenyl)-pyrido[3,2-d]pyrimidine | 135 mg, yield 54% | ClC=1C=C(C=CC1)NC(=O)C1N(CCNC1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)O)OC | C25H23ClN6O3
